US09303023B2
To a solution of rac-tert-butyl 2-((4-(5-(m-tolyl)oxazole-4-carboxamido)-1H-pyrazol-1-yl)methyl)pyrrolidine-1-carboxylate (100 mg, 0.22 mmol) in DCM (2.3 mL), TFA (0.170 mL, 2.215 mmol) was added at 0° C. After stirring for 5 h at rt, the solvent and the remaining TFA was removed under reduced pressure. The residue was dissolved in DCM and 1 N aq. NaOH-solution was added until basic. The layers were separated and the aq. layer was extracted with DCM (1×). The combined organic layers were washed with brine, dired (MgSO4), filterd and the solvent was removed under reduced pressure to yield rac-N-(1-(pyrrolidin-2-ylmethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide a yellow oil which was used in the next step without further purification. LC-MS conditions A: tR=0.62 min, [M+H]+=352.07.

reactant | rac-tert-butyl 2-((4-(5-(m-tolyl)oxazole-4-carboxamido)-1H-pyrazol-1-yl)methyl)pyrrolidine-1-carboxylate | 0.22 mmol, 100 mg | C1(=CC(=CC=C1)C1=C(N=CO1)C(=O)NC=1C=NN(C1)CC1N(CCC1)C(=O)OC(C)(C)C)C | C24H29N5O4
reactant | TFA | 2.215 mmol, 0.170 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2.3 mL | C(Cl)Cl | CH2Cl2
product | rac-N-(1-(pyrrolidin-2-ylmethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | N1C(CCC1)CN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C19H21N5O2
